US06579884B1
Synthesis of 8-(3-bromo-2-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine
Example 1.34 and 1.35 are prepared from a mixture of 2-chloro-6-methylbenzylbromide and 3-chloro-2-methylbenzylbromide. The yields are referred to 8-amino-2,3-dimethylimidazo[1,2-a]pyridine.

reactant | 2-chloro-6-methylbenzylbromide | ClC1=C(CBr)C(=CC=C1)C | C8H8BrCl
reactant | 3-chloro-2-methylbenzylbromide | ClC=1C(=C(CBr)C=CC1)C | C8H8BrCl
reactant | 8-amino-2,3-dimethylimidazo[1,2-a]pyridine | NC=1C=2N(C=CC1)C(=C(N2)C)C | C9H11N3
product | 8-(3-bromo-2-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine | BrC=1C(=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C=CC1)C | C17H18BrN3
